US07067517B2
4-(4-Chlorobenzyl)piperazine-1-carboxylic acid 4-(4-trifluoromethylphenoxy)phenyl ester
The hydrochloride of the title compound was prepared from 4-(4-trifluoromethylphenoxy)phenyl chloroformate and 1-(4-chlorobenzyl)piperazine, yield 86%. White crystals, m.p. 232–234° C.; 1H NMR (DMSO-d6): δ 11.92 (br s, 1H), 3 AB-systems: 7.83–7.62 (t-like, 4H) and 7.62–7.48 (d-like, 2H), and 7.32–7.07 (m, 6H); 4.51–3.95 (br s at 4.37 ppm overlapping with br signal at 4.2 ppm, 4H), 3.95–2.95 (br m, 9H: 6H+water); IR (KBr): ν 1717 (C═O) cm−1.

reactant | 4-(4-trifluoromethylphenoxy)phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C14H8ClF3O3
reactant | 1-(4-chlorobenzyl)piperazine | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
reactant | KBr | [K+].[Br-]
solvent | water | O | H2O
product | 4-(4-Chlorobenzyl)piperazine-1-carboxylic acid 4-(4-trifluoromethylphenoxy)phenyl ester | FC(C1=CC=C(OC2=CC=C(C=C2)OC(=O)N2CCN(CC2)CC2=CC=C(C=C2)Cl)C=C1)(F)F | C25H22ClF3N2O3
